US06706723B2
To a mixture of 5-(2-ethoxy-ethyl)-pyrimidine-2,4,6-trione (27.8 g, 139 mmol) and 1.5 L of water was added 1M sodium hydroxide solution (140 mL) and bromine (7.2 mL, 22.2 g, 139 mmol) at 0° C. After warming to room temperature, the mixture was stirred for 48 hours, filtered, and the solids were washed with water, then ether, then hexanes and dried in vacuo, affording 23 g of 5-bromo-5-(2-ethoxy-ethyl)-pyrimidine-2,4,6-trione.

reactant | 5-(2-ethoxy-ethyl)-pyrimidine-2,4,6-trione | 139 mmol, 27.8 g | C(C)OCCC1C(NC(NC1=O)=O)=O | C8H12N2O4
reactant | sodium hydroxide | 1M, 140 mL | [OH-].[Na+]
reactant | bromine | 139 mmol, 7.2 mL, 22.2 g | BrBr | Br2
solvent | water | 1.5 L | O | H2O
product | 5-bromo-5-(2-ethoxy-ethyl)-pyrimidine-2,4,6-trione | 23 g | BrC1(C(NC(NC1=O)=O)=O)CCOCC | C8H11BrN2O4
